US04503049
2-[N-Acetyl-N-(2,6-dichlorophenyl)amino]phenylacetic acid is reacted with phosphorus pentachloride in diethyl ether to obtain 2-[N-acetyl-N-(2,6-dichlorophenyl)amino]phenylacetic acid chloride. The acid chloride is then reacted with trimethyl phosphite under the conditions described in Example 2, thus producing 2-[N-acetyl-N-(2,6-dichlorophenyl)amino]phenyl-1-hydroxyethene-1-phosphonic acid dimethyl ester; this compound is converted, under the conditions of Example 1, with dimethyl phosphite into 2-[2-(2,6-dichlorophenylamino)phenyl]-1-hydroxyethane-1,1-bis(phosphonic acid dimethyl ester).

reactant | 2-[N-Acetyl-N-(2,6-dichlorophenyl)amino]phenylacetic acid | C(C)(=O)N(C1=C(C=CC=C1Cl)Cl)C1=C(C=CC=C1)CC(=O)O | C16H13Cl2NO3
reactant | phosphorus pentachloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-[N-acetyl-N-(2,6-dichlorophenyl)amino]phenylacetic acid chloride | C(C)(=O)N(C1=C(C=CC=C1Cl)Cl)C1=C(C=CC=C1)CC(=O)Cl | C16H12Cl3NO2
